US06121283
7-Bromo-6-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (5)
A 115 g (0.447 mol) sample of 7-bromo-6-nitro-1,2,3,4-tetrahydroisoquinoline, 45.2 g (0.447 mol) of triethylamine, 97.5 g (0.447 mol) of di-tert-butyl dicarbonate, 3.2 liter of dioxane and 0.5 liter of water were combined and stirred at ambient temperature for 1.5 hrs. The reaction was concentrated to remove the dioxane, 1 liter of saturated sodium bicarbonate was added and the mixture was extracted two times with 1 liter of methylene chloride. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. The resulting solid was recrystallized from isopropanol to yield 118 g of a solid.

reactant | 7-bromo-6-nitro-1,2,3,4-tetrahydroisoquinoline | BrC1=C(C=C2CCNCC2=C1)[N+](=O)[O-] | C9H9BrN2O2
reactant | triethylamine | 0.447 mol, 45.2 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.447 mol, 97.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane | 3.2 liter | O1CCOCC1 | C4H8O2
solvent | water | 0.5 liter | O | H2O
product | 7-Bromo-6-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 118 g | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2CC1)[N+](=O)[O-])Br | C14H17BrN2O4
